US07622583B2
To 2-amino-pyridine-3-carbaldehyde (500 mg, 4.09 mmol) in CH3CN (5 mL) was added (Boc)2O (1.34 g, 6.14 mmol) and stirred at 50° C. for 24 hours. Reaction mixture was diluted with EtOAc (50 mL), washed with brine (3×25 mL), dried (Na2SO4), evaporated and purified by column chromatography (SiO2, 50% EtOAc in hexanes) to obtain (3-formyl-pyridin-2-yl)-carbamic acid tert-butyl ester (655 mg) in 72% yield. ESMS m/z (relative intensity): 123 [(M−100) +H]+ (100).

reactant | 2-amino-pyridine-3-carbaldehyde | 4.09 mmol, 500 mg | NC1=NC=CC=C1C=O | C6H6N2O
reactant | (Boc)2O | 6.14 mmol, 1.34 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (3-formyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 655 mg, 72% yield | C(C)(C)(C)OC(NC1=NC=CC=C1C=O)=O | C11H14N2O3
